US08026261B2
Preparation of 5-benzyloxy-2-difluoromethyl-1-methyl-1H-pyridin-4-one
A 2.0M methylamine solution in methanol (19.0 mL, 38.0 mmol) was added to a suspension of 5-benzyloxy-2-difluoromethyl-pyran-4-one (3.15 g, 12.5 mmol) in methanol (18 mL). The reaction mixture slowly turned into a clear yellow solution. The progress of the reaction was monitored by TLC using a mixture of methanol and dichloromethane (1/20, v/v) as eluant, and HPLC method 1 as described above. After 70 minutes, the reaction mixture was concentrated in vacuo to obtain an oil. The oil was diluted with ether and allowed to stir overnight at room temperature. A precipitate had formed and it was collected by filtration. The solid was washed with ether, and the title compound was obtained as an off white solid (2.50 g, 75% yield). The purity of this material was analysed by HPLC Method 1 (peak area percent is 98.8% at λ=288 nm) as described above. 1H NMR (400 MHz, DMSO-D6) δ (ppm): 7.75 (s, 1H), 7.44-7.34 (m, 5H, ArH), 7.12 (t, J=53.0 Hz, 1H, CF2H), 6.48 (s, 1H), 5.02 (s, 2H, OCH2), 3.71 (s, 3H, N—CH3).

reactant | methylamine | 2.0M | CN | CH5N
reactant | 5-benzyloxy-2-difluoromethyl-pyran-4-one | 12.5 mmol, 3.15 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(F)F)=O | C13H10F2O3
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 18 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | methanol | 38.0 mmol, 19.0 mL | CO | CH4O
product | 5-benzyloxy-2-difluoromethyl-1-methyl-1H-pyridin-4-one | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(F)F)=O | C14H13F2NO2
